* dcdcInst: AUX CELL DCDC_COMP
.subckt DCDC_COMP VPWR VGND VIN VIP VON VOP CLK
X0 VCM CLK VGND VGND  sky130_fd_pr__nfet_01v8 w=840000u l=150000u m=2
X1 VMP VIN VCM VGND  sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
X2 VMN VIP VCM VGND  sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
X3 VOP VON VMP VGND  sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
X4 VON VOP VMN VGND  sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
X5 VOP VON VPWR VPWR  sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
X6 VON VOP VPWR VPWR  sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
X7 VOP CLK VPWR VPWR  sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
X8 VON CLK VPWR VPWR  sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
X9 VMP CLK VPWR VPWR  sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
X10 VMN CLK VPWR VPWR sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
.ends DCDC_COMP

* 2:1 stage: PMOS SWITCH
.subckt DCDC_XSW_PMOS VPB clk clkb vIN vOUT0 vOUT1
x0 int_sw0 int_sw1 vIN VPB sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
x1 int_sw1 int_sw0 vIN VPB sky130_fd_pr__pfet_01v8 w=420000u l=150000u m=2
x2 vOUT0 int_sw0 vIN VPB sky130_fd_pr__pfet_01v8 w=840000u l=150000u m=2
x3 vOUT1 int_sw1 vIN VPB sky130_fd_pr__pfet_01v8 w=840000u l=150000u m=2
x4 clkb int_sw0 clkb clkb sky130_fd_pr__pfet_01v8 w=420000u l=210000u m=2
x5 clk int_sw1 clk clk sky130_fd_pr__pfet_01v8 w=420000u l=210000u m=2
.ends DCDC_XSW_PMOS210000u

* 2:1 stage: NMOS SWITCH
.subckt DCDC_XSW_NMOS VNB clk clkb vIN vOUT0 vOUT1
x0 int_sw0 int_sw1 vIN VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
x1 int_sw1 int_sw0 vIN VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u m=2
x2 vOUT0 int_sw0 vIN VNB sky130_fd_pr__nfet_01v8 w=840000u l=150000u m=2
x3 vOUT1 int_sw1 vIN VNB sky130_fd_pr__nfet_01v8 w=840000u l=150000u m=2
x4 clkb int_sw0 clkb clkb sky130_fd_pr__pfet_01v8 w=420000u l=210000u m=2
x5 clk int_sw1 clk clk sky130_fd_pr__pfet_01v8 w=420000u l=210000u m=2
.ends DCDC_XSW_NMOS

*2:1 converter: DCDC_HUNIT_CONV2to1
.subckt DCDC_HUNIT_CONV2to1 VGND VPWR clk0 clk0b clk1 clk1b y0 y1 vhigh vlow
x0 VPWR clk1b clk0b vhigh y0 y1 DCDC_XSW_PMOS
x1 VGND clk0 clk1 vlow y0 y1 DCDC_XSW_NMOS
.ends DCDC_HUNIT_CONV2to1

*2:1 converter: DCDC_CONV2TO1
.subckt DCDC_CONV2TO1 VGND VPWR clk0 clk0b clk1 clk1b y0_top y1_top y0_bot y1_bot vhigh vmid vlow
x0 VGND VPWR clk0 clk0b clk1 clk1b y0_top y1_top vhigh vmid DCDC_HUNIT_CONV2to1
x1 VGND VPWR clk0 clk0b clk1 clk1b y0_bot y1_bot vmid vlow DCDC_HUNIT_CONV2to1
.ends DCDC_CONV2TO1

* 2:1 stage: unit cap
.subckt DCDC_CAP_UNIT BOT TOP
x0 BOT TOP sky130_fd_pr__cap_mim_m3_1 w=19 l=7
.ends DCDC_CAP_UNIT

* power mux: DCDC_MUX
.subckt DCDC_MUX_PMOS VPWR SEL SEL_INV VIN VOUT
x1  VIN SEL_INV VOUT VPWR sky130_fd_pr__pfet_01v8 w=1050000u l=150000u m=6
x2  VOUT SEL VIN VPWR sky130_fd_pr__pfet_01v8 w=1050000u l=150000u m=6
.ends DCDC_MUX_PMOS

.subckt DCDC_MUX_NMOS VGND SEL SEL_INV VIN VOUT
x1  VIN SEL_INV VOUT VGND sky130_fd_pr__nfet_01v8 w=1050000u l=150000u m=6
x2  VOUT SEL VIN VGND sky130_fd_pr__nfet_01v8 w=1050000u l=150000u m=6
.ends DCDC_MUX_NMOS

.subckt DCDC_MUX_TGATE VGND VPWR SEL SEL_INV VIN VOUT
x1  VOUT SEL_INV VIN VPWR sky130_fd_pr__pfet_01v8 w=1050000u l=150000u m=6
x2  VOUT SEL VIN VGND sky130_fd_pr__nfet_01v8 w=1050000u l=150000u m=6
.ends DCDC_MUX_TGATE

.subckt inv_4 A VGND VNB VPB VPWR Y
x1 Y A VGND VNB sky130_fd_pr__nfet_01v8 w=1050000u l=150000u m=2
x2 Y A VPWR VPB sky130_fd_pr__pfet_01v8 w=1050000u l=150000u m=4
.ends inv_4

.subckt DCDC_MUX VGND VPWR SEL_H SEL_L VIN VOUT_H VOUT_L
x0 SEL_H VGND VGND VPWR VPWR SEL_INV_H inv_4
x1 SEL_L VGND VGND VPWR VPWR SEL_INV_L inv_4
* Top MUX rail
x2 VPWR SEL_INV_H SEL_INV_H VPWR VOUT_H DCDC_MUX_PMOS
* Top MUX mid
x3 VGND VPWR SEL_INV_H SEL_H VIN VOUT_H DCDC_MUX_TGATE
* Bot MUX mid
x4 VGND VPWR SEL_L SEL_INV_L VIN VOUT_L DCDC_MUX_TGATE
* Bot MUX rail
x5 VGND SEL_INV_L SEL_INV_L VGND VOUT_L DCDC_MUX_NMOS
.ends DCDC_MUX
